US07138533B2
trans-4-[(Acetylamino)methyl]cyclohexanecarboxylic acid (12.1 g) was added by portions to thionyl chloride (25 ml) under ice-cooling. After stirred at room temperature for 30 minutes, thionyl chloride was evaporated under reduced pressure to give crude crystals of trans-4-[(acetylamino)methyl]cyclohexanecarbonyl chloride. Then, aluminum chloride (24.0 g) was added by portions to a solution of the crude crystals and 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (12.1 g) in dichloromethane (30 ml) under ice-cooling. After stirring at room temperature for 12 hours, the reaction mixture was poured into ice (300 g), extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound as colorless crystals (12.9 g) having a melting point of 178 to 180° C.

reactant | trans-4-[(Acetylamino)methyl]cyclohexanecarboxylic acid | 12.1 g | C(C)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C10H17NO3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | trans-4-[(acetylamino)methyl]cyclohexanecarbonyl chloride | C(C)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)Cl | C10H16ClNO2
